US05128448
A mixture of (E)-3-(benzo[b]thienyl)-2-propenoic acid ethyl ester (3.65 g, 15.7 mmol), absolute EtOH (200 mL) and 5% Pd/C (800 mg) was hydrogenated at 1 atm for 3 h. An additional 200 mg of 5% Pd/C was added and the mixture was again hydrogenated for 1.5 h. The mixture was filtered through a pad of Celite washing thoroughly with CH2Cl2. The combined filtrates were concentrated to dryness and the resulting glass was purified by flash chromatography, eluting with 15% EtOAc/hexane to give benzo[b]thiophene-2-propanoic acid ethyl ester (3.55 g, 15.2 mmol) in 96.5% as a glass.

reactant | (E)-3-(benzo[b]thienyl)-2-propenoic acid ethyl ester | 15.7 mmol, 3.65 g | C(C)OC(\C=C\C1=CC2=C(S1)C=CC=C2)=O | C13H12O2S
catalyst | Pd/C | 800 mg | [Pd] | Pd
catalyst | Pd/C | 200 mg | [Pd] | Pd
solvent | EtOH | 200 mL | CCO | C2H6O
product | benzo[b]thiophene-2-propanoic acid ethyl ester | 15.2 mmol, 3.55 g | C(C)OC(CCC1=CC2=C(S1)C=CC=C2)=O | C13H14O2S
